US07531537B2
The crude product (6.32 g) containing benzyl(1-isopropylpiperidin-4-yl)carbamate obtained in Example 382-(1) is dissolved in ethanol (100 ml), and thereto is added 10% palladium on carbon (600 mg), and the mixture is stirred at ambient temperature under hydrogen atmosphere overnight. The insoluble materials are removed by filtration, and the filtrate is concentrated under reduced pressure, and subjected to azeotropic distillation with toluene. The resulting residue is purified by NH-silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/1, then chloroform/methanol=20/1, and further 10/1) to give 4-amino-1-isopropylpiperidine (1.90 g). The resulting 4-amino-1-isopropylpiperidine is treated with 4N hydrogen chloride in dioxane to give 4-amino-1-isopropylpiperidine dihydrochloride.

reactant | 4-amino-1-isopropylpiperidine | NC1CCN(CC1)C(C)C | C8H18N2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-amino-1-isopropylpiperidine dihydrochloride | Cl.Cl.NC1CCN(CC1)C(C)C | InChI=1S/C8H18N2.2ClH/c1-7(2)10-5-3-8(9)4-6-10;;/h7-8H,3-6,9H2,1-2H3;2*1H
